US04837394
Methylbis(4-carbomethoxyphenyl)phenylphosphonium 3,5-bis(carbomethoxy)benzenesulfonate
A mixture of 14.414 g (0.05 mol) of methyl 3,5-bis(carbomethoxy)benzenesulfonate and 19.368 g (0.05 mol) bis(4-carbomethoxyphenyl)phenylphosphine was heated in a 130° C. bath with nitrogen bubbling through the melt for 2 hours.

reactant | methyl 3,5-bis(carbomethoxy)benzenesulfonate | 0.05 mol, 14.414 g | C(=O)(OC)C=1C=C(C=C(C1)C(=O)OC)S(=O)(=O)OC | C11H12O7S
reactant | bis(4-carbomethoxyphenyl)phenylphosphine | 0.05 mol, 19.368 g | C(=O)(OC)C1=CC=C(C=C1)P(C1=CC=CC=C1)C1=CC=C(C=C1)C(=O)OC | C22H19O4P
product | Methylbis(4-carbomethoxyphenyl)phenylphosphonium 3,5-bis(carbomethoxy)benzenesulfonate | C(=O)(OC)C=1C=C(C=C(C1)C(=O)OC)S(=O)(=O)[O-].C[P+](C1=CC=CC=C1)(C1=CC=C(C=C1)C(=O)OC)C1=CC=C(C=C1)C(=O)OC | InChI=1S/C23H22O4P.C10H10O7S/c1-26-22(24)17-9-13-20(14-10-17)28(3,19-7-5-4-6-8-19)21-15-11-18(12-16-21)23(25)27-2;1-16-9(11)6-3-7(10(12)17-2)5-8(4-6)18(13,14)15/h4-16H,1-3H3;3-5H,1-2H3,(H,13,14,15)/q+1;/p-1
